US09061999B2
4-(2-(4-chloro-3-nitrophenoxy)ethyl)piperidine (2.3 g, 8.1 mmol, 1 eq.) and tin (II) chloride dihydrate (9.1 g, 40.4 mmol, 5 eq.) were placed in EtOH (81 mL). The reaction mixture was heated at 60° C. and stirred for 19 hours. The reaction mixture was then concentrated under reduced pressure and the resulting residue was diluted with ethyl acetate. The organic phase was washed with a 1N NaOH aqueous solution, dried over MgSO4, filtered and concentrated under reduced pressure to afford 2-chloro-5-(2-piperidinoethoxy)aniline (1.9 g, 92%).

reactant | 4-(2-(4-chloro-3-nitrophenoxy)ethyl)piperidine | 8.1 mmol, 2.3 g, 1 eq. | ClC1=C(C=C(OCCC2CCNCC2)C=C1)[N+](=O)[O-] | C13H17ClN2O3
reactant | tin (II) chloride dihydrate | 40.4 mmol, 9.1 g, 5 eq. | O.O.[Sn](Cl)Cl
reactant | EtOH | 81 mL | CCO | C2H6O
product | 2-chloro-5-(2-piperidinoethoxy)aniline | 1.9 g, 92% | ClC1=C(N)C=C(C=C1)OCCN1CCCCC1 | C13H19ClN2O
